US04746653
A mixture of 900 mg of cis-2-methoxycarbonyl-4-(α-dimethylphosphonoacetamido)-piperidine and 20 ml of methylene chloride is treated with 4 g trimethylsilyl iodide and the resulting mixture is stirred for 16 hours at room temperature. After removal of solvent the residue is stirred with water for 15 minutes and the solvent is removed in vacuo. A solution of the residue in 30 ml of 3N hydrochloric acid is heated under reflux for one hour and evaporated to dryness. A solution of the residue in 15 ml ethanol is treated with 1 ml of propylene oxide. Evaporation to dryness yields cis-4-(α-phosphonoacetamido)-piperidine-2-carboxylic acid.

reactant | cis-2-methoxycarbonyl-4-(α-dimethylphosphonoacetamido)-piperidine | 900 mg | COC(=O)[C@@H]1NCC[C@@H](C1)NC(CP(=O)(OC)OC)=O | C11H21N2O6P
reactant | trimethylsilyl iodide | 4 g | C[Si](C)(C)I | C3H9ISi
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | cis-4-(α-phosphonoacetamido)-piperidine-2-carboxylic acid | P(=O)(O)(O)CC(=O)N[C@@H]1C[C@@H](NCC1)C(=O)O | C8H15N2O6P
